US04954501
6-[4-(2-aminoethyl)amino-3-amino-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
3.0 g (10.3 mmol) of 6-[4-(2-aminoethyl)amino-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone in 200 ml of methanol are hydrogenated under a hydrogen pressure of 2 bar at room temperature in the presence of 0.5 g of palladium charcoal (10% Pd) until uptake of hydrogen ceases. After removal of the catalyst by filtration, the solution is concentrated by evaporation under vacuum. The residue is chromatographed on silica gel with methanol/conc. ammonia (95/5) as solvent. The main fraction is concentrated by evaporation under vacuum and the solid obtained is recrystallized from ethanol. 1.37 g (51%) of a beige coloured solid, m.p. 176°-177° C. are obtained.

reactant | 6-[4-(2-aminoethyl)amino-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 10.3 mmol, 3.0 g | NCCNC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C13H17N5O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium charcoal | 0.5 g | [Pd] | Pd
product | 6-[4-(2-aminoethyl)amino-3-amino-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 1.37 g, 51% | NCCNC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)N | C13H19N5O
